US06586421B2
N-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-amine
To a solution of tert-butyl 10-bromo-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (600 mg), sodium t-butoxide (220 mg), tris(dibenzylideneacetone) dipalladium (23 mg), aniline (183 mg) toluene (1.64 ml) was added 2-(di-t-butylphosphino)biphenyl (30 mg) and the reaction mixture was heated at 50° C. The reaction mixture stirred 16 h, was poured into brine, extracted with CH2Cl2, dried over MgSO4, filtered and concentrated. The crude product was stirred in CH2Cl2 (8 ml) and TFA (2 ml) was added. The reaction mixture stirred 1 h, was quenched with 2N NaOH, extracted with CH2Cl2, dried over MgSO4, filtered and concentrated. Purification via flash chromatography (silica gel, CH2Cl2/MeOH, 9/1 with 0.5% NH4OH) provided the title compound: 1H NMR (DMSO-d6) δ 2.68, 2.83-2.90, 6.58-6.67, 6.89, 7.06, 7.54, 10.71.

reactant | tert-butyl 10-bromo-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 600 mg | BrC=1C=2C3=C(NC2C=CC1)CCN(CC3)C(=O)OC(C)(C)C | C17H21BrN2O2
reactant | sodium t-butoxide | 220 mg | CC(C)([O-])C.[Na+]
reactant | aniline | 1.64 ml, 183 mg | NC1=CC=CC=C1 | C6H7N
reactant | 2-(di-t-butylphosphino)biphenyl | 30 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | brine | [Cl-].[Na+].O
catalyst | tris(dibenzylideneacetone) dipalladium | 23 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | N-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-amine | C1(=CC=CC=C1)NC=1C=2C3=C(NC2C=CC1)CCNCC3 | C18H19N3
